US07238716B2
To a mixture of [4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxyphenyl]methanol (5.00 g), 2-chloro-3-cyanopyridine (2.65 g) and N,N-dimethylformamide (150 mL) was added sodium hydride (60%, oil, 0.70 g) at room temperature and the mixture was stirred for 15 hrs. Water was added to the reaction mixture and the precipitated crystals were collected by filtration to give crystals (6.60 g, yield 99%) of 3-cyano-2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxybenzyloxy]pyridine. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 137-138° C.

reactant | [4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxyphenyl]methanol | 5.00 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CO)OC)C | C17H17NO5
reactant | 2-chloro-3-cyanopyridine | 2.65 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.70 g | [H-].[Na+]
solvent | Water | O | H2O
product | 3-cyano-2-[4-[[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy]-3-methoxybenzyloxy]pyridine | 6.60 g, yield 99% | C(#N)C=1C(=NC=CC1)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C23H19N3O5
